US09193935B2
16.3: 2-(4-Methyltridec-2-en-2-yl)naphthalene
Starting from (1-(2-naphthyl)ethyltriphenylphosphonium bromide (6.40 g, 12.9 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 8.0 mL, 12.9 mmol, 1.0 equiv.) and 2-methylundecanal (3.56 g, 19.3 mmol, 1.5 equiv.), and after stirring the mixture at 25° C. for 3 h, 0.94 g (23%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane).

reactant | 1-(2-naphthyl)ethyltriphenylphosphonium bromide | 12.9 mmol, 6.40 g, 1.0 equiv. | [Br-].C1=C(C=CC2=CC=CC=C12)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 12.9 mmol, 1.6 M, 8.0 mL, 1.0 equiv. | [Li]CCCC
reactant | 2-methylundecanal | 19.3 mmol, 3.56 g, 1.5 equiv. | CC(C=O)CCCCCCCCC | C12H24O
product | 2-(4-Methyltridec-2-en-2-yl)naphthalene | 0.94 g, 23% | CC(C=C(C)C1=CC2=CC=CC=C2C=C1)CCCCCCCCC | C24H34
